US04145364
Step B: Preparation of 2,4-difluoroaniline
A solution of 4.11g. (0.03 mole) of 2-fluorophenylazide in 81 ml. of cyclohexane was treated with 20 ml. of hydrogen fluoride. The reaction mixture was then shaken at room temperature for 24 hours, then cooled, vented, and rinsed from the bomb with two successive applications of 100 ml. of dichloromethane and then 100 ml. of water. The reaction mixture was then blown down under nitrogen, quenched in 75g. of ice, and rendered basic with KOH pellets. The reaction mixture was extracted with dichloromethane to yield 2.2g. (57%) of a brown-red fluid after drying over MgSO4. The 2,4-difluoroaniline structure of the final product was confirmed by IR, and the product had a b.p. of 90°-92° C. at 40 mm. Hg.

reactant | 2-fluorophenylazide | 0.03 mole | FC1=C(C=CC=C1)N=[N+]=[N-] | C6H4FN3
reactant | hydrogen fluoride | F | FH
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
